US04985461
To a stirred solution of the 2-neopentyl-1-benzoylhydrazine in toluene (40 ml) at 5° C., were added dropwise and simultaneously solutions of benzoyl chloride (1.4 g, 10 mmoles) in toluene (5 ml) and aqueous 50% sodium hydroxide solution (0.8 g) while maintaining the temperature below 10° C. After the addition, the reaction mixture was warmed to room temperature and stirred for 1 hour. The reaction mixture was diluted with hexane and the precipitated product isolated by filtration. The product was washed with water and hexane and dried. The crude product was recrystallized from methanol to afford N'-neopentyl-N,N'-dibenzoylhydrazine as a white powder: m.p 237°-239° C.

reactant | 2-neopentyl-1-benzoylhydrazine | C(C(C)(C)C)NNC(C1=CC=CC=C1)=O | C12H18N2O
reactant | benzoyl chloride | 10 mmoles, 1.4 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydroxide | 0.8 g | [OH-].[Na+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | N'-neopentyl-N,N'-dibenzoylhydrazine | C(C(C)(C)C)N(NC(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O | C19H22N2O2
